US04935491
p-nitrophenyl picolinate.
4.92 g, 40 mmoles, picolinic acid and 5.84 g, 42 mmoles p-nitrophenol were suspended/dissolved in 200 ml CH2Cl2. Then 8.24 g, 40 mmoles, DCC was added in 20 ml CH2Cl2 with vigorous stirring. Stirring was continued in room temperature for 17 h. Then the mixture was filtered and the filter cake washed with 30-40 ml CH2Cl2. The raw product was first treated with 100 ml Et2O with stirring in ice-bath and filtered. Recrystallization from 250 ml iPrOH gave 6.24 g, 63% product. M.p. 154°-6° C. (dec.). M.p. (Fife and Przystas, loc. cit.) 145°-7° C. Anal. C,H,N,O.

reactant | picolinic acid | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | p-nitrophenol | 42 mmoles, 5.84 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | p-nitrophenyl picolinate | 6.24 g, 63% | N1=C(C=CC=C1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C12H8N2O4
